US07351719B2
159) 2-(2-chloro-4-trifluoromethyl-phenoxy)-N-[4-(2-diethylamino-ethoxy)-3-nitro-phenyl]-acetamide
Prepared analogously to Example 143 starting from (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid (Z2b) and 4-(2-diethylamino-ethoxy)-3-nitro-phenylamine (Z31a).

reactant | (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)C(F)(F)F | C9H6ClF3O3
reactant | 4-(2-diethylamino-ethoxy)-3-nitro-phenylamine | C(C)N(CCOC1=C(C=C(C=C1)N)[N+](=O)[O-])CC | C12H19N3O3
product | 2-(2-chloro-4-trifluoromethyl-phenoxy)-N-[4-(2-diethylamino-ethoxy)-3-nitro-phenyl]-acetamide | ClC1=C(OCC(=O)NC2=CC(=C(C=C2)OCCN(CC)CC)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C21H23ClF3N3O5
